US05179125
(2) Preparation of cyanomethyl 3-(t-butyloxycarbonylamino)benzoate
A mixture of 3-(t-butyloxycarbonylamino)benzoic acid (20 g), triethylamine (12.8 g), chloroacetonitrile (9.4 g) and acetone (150 ml) is refluxed for 4 hours. After acetone is distilled off under reduced pressure, the residue is dissolved in ethyl acetate (200 ml), and the solution is washed with water, and ethyl acetate is distilled off under reduced pressure. The residue is recrystallized from 80% aqueous acetonitrile solution to give the title compound (22 g, 99%) as white short needles.

reactant | 3-(t-butyloxycarbonylamino)benzoic acid | 20 g | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)O)C=CC1 | C12H15NO4
reactant | triethylamine | 12.8 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetonitrile | 9.4 g | ClCC#N | C2H2ClN
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | cyanomethyl 3-(t-butyloxycarbonylamino)benzoate | 22 g, 99% | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)OCC#N)C=CC1 | C14H16N2O4
